US04294960
A solution of 2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetic acid (syn isomer, 3.24 g.), N,N-dimethylformamide (0.951 g.), and phosphoryl chloride (2.00 g.) in ethyl acetate (20 ml.), and a solution of 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride (4 g.) in a mixture of acetone (20 ml.), water (20 ml.) and tetrahydrofuran (400 ml.) were treated in a similar manner to that of Example 21-(1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 5.78 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetic acid | 3.24 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCCCC | C12H17N3O4S
reactant | N,N-dimethylformamide | 0.951 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 2.00 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 4 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-n-hexyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 5.78 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCCCC | C26H27ClN6O8S2
